US04746754
A 0.10-g sample of 4-(1-methylethenyl)phenol is exposed to excess, gaseous ammonia for about 1 day at 50° C. under autogenous pressure in a closed heavy wall glass bottle. The excess ammonia is purged and a quantitative yield of 2-amino-2-(4-hydroxyphenyl)propane is obtained.

reactant | 4-(1-methylethenyl)phenol | CC(=C)C1=CC=C(C=C1)O | C9H10O
reactant | ammonia | N | H3N
product | 2-amino-2-(4-hydroxyphenyl)propane | quantitative yield | NC(C)(C)C1=CC=C(C=C1)O | C9H13NO
